US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and 4-phenoxyphenyl phosphonic dichloride. The reaction of the dilithio compound and the 4-phenoxyphenyl phosphonic dichloride was conducted at 0° C. The crude product produced as a result of the chromatographic separation was distilled at 140° C. and the resulting residue was crystallilzed from diethyl ether to yield 1-(4-phenoxyphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as beige needles. A second crop was obtained to give a total yield of 0.75 g, 3% yield of 1-(4-phenoxyphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide having a melting point of 207°-208° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 4-phenoxyphenyl phosphonic dichloride | O(C1=CC=CC=C1)C1=CC=C(C=C1)P(=O)(Cl)Cl | C12H9Cl2O2P
product | 1-(4-phenoxyphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | O(C1=CC=CC=C1)C1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C25H20NO2P
